US04914225
To a suspension of N,N'-bis(1-oxo-3-chloropropyl)ethanediamide (3.0 g; 11 mmol) in methylene chloride (40 ml), triethylamine (2.82 g; 28 mmol) was added, and the resultant mixture was stirred at room temperature for 2 hours. The precipitated solid was collected and washed with water to give N,N'-bis(1-oxo-2-propenyl)ethanediamide (0.1 g). Yield, 4.6%.

reactant | N,N'-bis(1-oxo-3-chloropropyl)ethanediamide | 11 mmol, 3.0 g | O=C(CCCl)NC(C(=O)NC(CCCl)=O)=O | C8H10Cl2N2O4
reactant | triethylamine | 28 mmol, 2.82 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N,N'-bis(1-oxo-2-propenyl)ethanediamide | 0.1 g | O=C(C=C)NC(C(=O)NC(C=C)=O)=O | C8H8N2O4
